US08080565B2
Step A—Preparation of 5-(2,2-Dimethoxyethoxy)pent-1-yne
Pent-4-yn-1-ol (4.5 mL, 48 mmol) was dissolved in anhydrous THF (50 mL). Sodium hydride (60% w/w in mineral oil, 1.95 g, 49 mmol) was added portionwise over a 10 min period. The resulting slurry was heated at 40° C. for 30 min. and then allowed to cool to room temperature. 2-Bromoacetaldehyde dimethylacetal (5.67 mL, 48 mmol) was added and the reaction mixture was heated at 40° C. for 18 h, and it was quenched with water (2 mL). The resulting solution was concentrated and then partitioned between dichloromethane (2×100 mL) and 1N HCl (100 mL). The organic phases were then removed and washed with saturated NaHCO3 solution (100 mL), and saturated brine (100 mL); and then dried over sodium sulfate, filtered and concentrated in vacuo. The resulting crude product (2.91 g) was then chromatographed using a silica gel column and eluting under 10 psi of nitrogen pressure with dichloromethane; 2% v/v methanol in dichloromethane; and then 4% v/v methanol in dichloromethane. The appropriate fractions were combined and concentrated to give the title intermediate (2.78 g, 16.1 mmol, 33.5% yield—contained 0.5 molar equivalents of dichloromethane). NOTE: Due to the volatility of this intermediate, this compound should not be dried on a high vacuum line.

reactant | Pent-4-yn-1-ol | 48 mmol, 4.5 mL | C(CCC#C)O | C5H8O
reactant | Sodium hydride | 49 mmol, 1.95 g | [H-].[Na+]
reactant | 2-Bromoacetaldehyde dimethylacetal | 48 mmol, 5.67 mL | COC(CBr)OC | C4H9BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(2,2-Dimethoxyethoxy)pent-1-yne | 16.1 mmol, 0.5 molar, 2.78 g, 33.5% yield | COC(COCCCC#C)OC | C9H16O3
